US04920120
2-(2,4,5-Trifluoro-6-methylphenyl)-4,4-dimethyl-2-oxazoline
A solution of 12.0 g (38.0 mmol) of 2-[2,4,5-trifluoro-6-methyl-3-(trimethylsilyl)phenyl]-4,4-dimethyl-2-oxazoline, 5.85 g (38.5 mmol) of cesium fluoride, 110 ml of dimethylformamide, and 15 ml of water was stirred for 18 hours at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate; the organic phase was washed with water, dried over magnesium sulfate, and concentrated to give 9.1 g of liquid.

reactant | 2-[2,4,5-trifluoro-6-methyl-3-(trimethylsilyl)phenyl]-4,4-dimethyl-2-oxazoline | 38.0 mmol, 12.0 g | FC1=C(C(=C(C(=C1[Si](C)(C)C)F)F)C)C=1OCC(N1)(C)C | C15H20F3NOSi
reactant | cesium fluoride | 38.5 mmol, 5.85 g | [F-].[Cs+]
reactant | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | water | 15 ml | O | H2O
product | 2-(2,4,5-Trifluoro-6-methylphenyl)-4,4-dimethyl-2-oxazoline | 9.1 g | FC1=C(C(=C(C(=C1)F)F)C)C=1OCC(N1)(C)C | C12H12F3NO
